US06919356B2
Part J. Preparation of trans-{3-azidomethyl-1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-benzyl-methylamine
A mixture of crude methanesulfonic acid trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl ester (139 mg, 294 μmol) and sodium azide (58 mg, 882 μmol) in N,N-dimethylformamide (2 mL) was heated at 60° C. for 20 hours, then cooled to room temperature. The mixture was diluted with ethyl acetate, washed three times with water, dried over sodium sulfate, and concentrated under vacuum to provide a gum (106 mg, 95%) which was used without purification. 1H NMR (300 MHz, CDCl3) δ7.33 (m, 5H), 7.16 (m, 2H), 6.99 (t, J=9 Hz, 2H), 3.70 (m, 2H), 3.52 (d, J=13 Hz, 1H), 3.41 (m, 1H), 3.20 (m, 2H), 2.83 (m, 2H), 2.61 (m, 2H), 2.42 (m, 1H), 2.3-1.8 (m, 4H), 2.19 (s, 3H), 1.75 (m, 1H).

reactant | methanesulfonic acid trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl ester | 294 μmol, 139 mg | C(C1=CC=CC=C1)N([C@H]1[C@@H](CN(CC1)CCC1=CC=C(C=C1)F)COS(=O)(=O)C)C | C23H31FN2O3S
reactant | sodium azide | 882 μmol, 58 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-{3-azidomethyl-1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-benzyl-methylamine | 106 mg, 95% | N(=[N+]=[N-])C[C@@H]1CN(CC[C@H]1N(C)CC1=CC=CC=C1)CCC1=CC=C(C=C1)F | C22H28FN5
